US07915411B2
A solution of 4-chloro-3-nitro-phenol was reacted with 5-Bromomethyl-2-chloro-thiazole (prepared according to the method of Kim, H.-J., Liu, S., Keum, Y.-S., Qing, X. J. Agric. Food Chem. 2003, 51, 1823-1830) using the conditions described in Example 10C to provide 2-Chloro-5-(4-chloro-3-nitro-phenoxymethyl)-thiazole which was treated sequentially using the procedures from Examples 10D and 10E to provide the title product.

reactant | 4-chloro-3-nitro-phenol | ClC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H4ClNO3
reactant | 5-Bromomethyl-2-chloro-thiazole | BrCC1=CN=C(S1)Cl | C4H3BrClNS
product | 2-Chloro-5-(4-chloro-3-nitro-phenoxymethyl)-thiazole | ClC=1SC(=CN1)COC1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C10H6Cl2N2O3S
